US05112966
To a solution of (3S,4R)-4-(1-(R)-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (20 g) in dry dichloromethane (200 ml) were added 1,3-dimethoxybenzene (7.8 g) and boron trifluoride etherate (23 g) at 10 °-20° C., and the resultant mixture was stirred at room temperature for 3 hours, followed by heating under reflux for 3-5 hours. The reaction mixture was cooled down to 10°-15° C., washed successively with brine (200 ml×2), 2.5% sodium bicarbonate (200 ml) and brine (200 ml) and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue which was purified by silica gel chromatography to yield (3S,4S)-4-(1-(R)-hydroxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4R)-4-(1-(R)-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 20 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H53NO7Si
reactant | 1,3-dimethoxybenzene | 7.8 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | boron trifluoride etherate | 23 g | B(F)(F)F.CCOCC
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (3S,4S)-4-(1-(R)-hydroxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | OC[C@H](C)[C@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H21NO5
